US07696223B2
f) [(7-Hydroxy-2-phenylamino-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-phenylamino-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (39 mg, 0.12 mmol) and glycine (186 mg, 2.48 mmol) in 0.5 M sodium methoxide/methanol (4.7 mL) was refluxed for 22 h before it was cooled to room temperature and concentrated in vacuo. It was dissolved in water (20 mL) and extracted twice with dichloromethane. The remaining aqueous layer was acidified to pH=3 with 1N HCl (3.5 mL). The suspension was extracted with ethyl acetate (2×30 mL) and chloroform/isopropanol (3:1, 40 mL). The organic layer was combined and dried in vacuo to give the title compound as a brown solid (35 mg): 1H NMR (DMSO-d6, 200 MHz): δ=12.99 (br s, 1H), 11.00 (s, 1H), 9.25 (t, 1H), 8.47 (s, 1H), 7.77 (m, 2H), 7.39 (t, 2H), 7.09 (t, 1H), 4.00 (d, J=6.3 Hz, 2H); MS: (+) m/z 345.07 (M+1).

reactant | 7-hydroxy-2-phenylamino-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.12 mmol, 39 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)NC2=CC=CC=C2)O | C15H13N3O3S
reactant | glycine | 2.48 mmol, 186 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide methanol | 0.5 M, 4.7 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-phenylamino-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 35 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)NC2=CC=CC=C2 | C15H12N4O4S
